* Z:\mnt\design.r\spice\examples\1397.asc
V1 +V 0 5
V2 -V 0 -5
XU1 0 N002 +V -V N003 LT1395
XU2 0 N004 +V -V Y LT1395
XU3 B N005 +V -V B-Y LT1395
XU4 R N001 +V -V R-Y LT1395
R1 Y N004 255
R2 N004 N003 127
R3 N003 N002 255
R4 N002 B 2320
R5 N002 G 432
R6 N002 R 845
R7 B 0 76.8
R8 G 0 90.9
R9 R 0 82.5
R10 N005 B-Y 255
R11 R-Y N001 255
R12 N001 Y 255
R13 Y N005 255
V3 R 0 SINE(0 .5 1Meg) Rser=75
V4 G 0 SINE(0 .5 2Meg) Rser=75
V5 B 0 SINE(0 .5 3Meg) Rser=75
.tran 3u
* Buffered RGB to Color-Difference Matrix
.lib LTC.lib
.backanno
.end
